US08314100B2
1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine (Compound 8)
Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate and 1-(3-methylphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound (yield, 90%). 1H NMR (200 MHz, CDCl3): δ 2.33 (s, 3H), 3.26-3.30 (m, 4H), 3.74-3.78 (m, 3H), 4.13 (s, 4H), 6.75-6.78 (m, 3H), 7.14-7.28 (m, 2H), 7.36 (s, 1H), 7.44-7.51 (dd, J=9.8 and 2.4 Hz, 1H), 7.67-7.74 (m, 1H).

reactant | Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12FN3O3
reactant | 1-(3-methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
product | 1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine | 90% | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=CC(=CC=C1)C | C21H22FN5O2
